US08247430B2
3-Methanesulfonyloxymethyl-azetidine-1-carboxylic Acid Benzyl Ester
3-Hydroxymethyl-azetidine-1,3-dicarboxylic acid monobenzyl ester (6.6 g) was dissolved in CH2Cl2 (100 mL) and brought to −15 C. While stirring, TEA was added (3 eq, 9.43 g) followed by methanesulphonic chloride (2.0 eq, 7.69 g) and allowed to come to RT and stirred for 1 h. The resulting organic solution was extracted with water (3×100 mL). The organic layer was dried over Na2SO4 and evaporated to give the desired product as a clear oil which was used without further purification.

reactant | 3-Hydroxymethyl-azetidine-1,3-dicarboxylic acid monobenzyl ester | 6.6 g | C(C1=CC=CC=C1)OC(=O)N1CC(C1)(C(=O)O)CO | C13H15NO5
reactant | methanesulphonic chloride | 7.69 g, 2.0 eq | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 3-Methanesulfonyloxymethyl-azetidine-1-carboxylic Acid Benzyl Ester | C(C1=CC=CC=C1)OC(=O)N1CC(C1)COS(=O)(=O)C | C13H17NO5S
